US07132428B2
c) 4-Amino-3-ethyl-5-phenyl-1H-pyrazole (P2)
A solution of 6.3 g of 3-ethyl-4-nitroso-5-phenyl-1H-pyrazole in 220 mL of ethanol was treated with 2.0 g of 10% palladium/carbon catalyst and hydrogenated at RT and 50 psi for 16 h. The reaction mixture was filtered through celite and washed well with ethanol. The filtrate was concentrated to give the title compound as a brown oil.

reactant | 3-ethyl-4-nitroso-5-phenyl-1H-pyrazole | 6.3 g | C(C)C1=NNC(=C1N=O)C1=CC=CC=C1 | C11H11N3O
solvent | ethanol | 220 mL | C(C)O | C2H6O
catalyst | palladium/carbon | 2.0 g | [Pd] | Pd
product | 4-Amino-3-ethyl-5-phenyl-1H-pyrazole | NC=1C(=NNC1C1=CC=CC=C1)CC | C11H13N3
